US06689780B1
Preparation of 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]pyridine-3-carboxamide Tetrahydrochloride
A suspension of N-(5-chloropyridin-2-yl)-2,5-dichloropyridine-3-carboxamide (0.807 g, 2.68 mmol) and 1-(4-pyridinyl)piperidine-4-methylamine (510 mg) in ethyl alcohol (5 mL) was heated in a sealed tube for 24 hours. Filtered the solids and purified by RPHPLC. The pure product containing fractions were combined and lyophilized to give 0.1 g of an off-white solid.

reactant | N-(5-chloropyridin-2-yl)-2,5-dichloropyridine-3-carboxamide | 2.68 mmol, 0.807 g | ClC=1C=CC(=NC1)NC(=O)C=1C(=NC=C(C1)Cl)Cl | C11H6Cl3N3O
reactant | 1-(4-pyridinyl)piperidine-4-methylamine | 510 mg | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]pyridine-3-carboxamide Tetrahydrochloride | 0.1 g | Cl.Cl.Cl.Cl.ClC=1C=C(C(=NC1)NCC1CCN(CC1)C1=CC=NC=C1)C(=O)NC1=NC=C(C=C1)Cl | InChI=1S/C22H22Cl2N6O.4ClH/c23-16-1-2-20(26-13-16)29-22(31)19-11-17(24)14-28-21(19)27-12-15-5-9-30(10-6-15)18-3-7-25-8-4-18;;;;/h1-4,7-8,11,13-15H,5-6,9-10,12H2,(H,27,28)(H,26,29,31);4*1H
